US03959475
To a cold (-60°) stirred solution of 2-bromobenzhydryl methyl ether in 38 ml. of tetrahydrofuran and 14 ml. of hexane is slowly added 53 ml. of 2.1 M n-butyllithium in hexane. After 2 hours, a solution of 10.7 g. of 1-methyl-4-piperidone in 15 ml. of tetrahydrofuran is added dropwise, and the suspension is stirred at -60° for 3 hours and at room temperature for 15 hours. Ice and water are added and the mixture is extracted with chloroform. The chloroform solution is dried over sodium sulfate and concentrated to a mixture of 4-hydroxy-4-(α-methoxy-α-phenyl-2-tolyl)-1-methylpiperidine and benzhydrol methyl ether. This oil is heated under reflux for 30 minutes if 240 ml. of acetic acid containing 60 ml. of hydrochloric acid. Dilution with water and addition of excess sodium hydroxide effects precipitation of a solid. Recrystallization from hexane provides 1,3-dihydro-1'-methyl-3-phenylspiro[isobenzofuran-1,4'-piperidine], m.p. 123°-124°.

reactant | 2-bromobenzhydryl methyl ether | COC(C1=C(C=CC=C1)Br)C1=CC=CC=C1 | C14H13BrO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyllithium | 2.1 M | C(CCC)[Li]
reactant | 1-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 1,3-dihydro-1'-methyl-3-phenylspiro[isobenzofuran-1,4'-piperidine] | CN1CCC2(CC1)OC(C1=CC=CC=C12)C1=CC=CC=C1 | C19H21NO
